US07348359B2
A mixture of 0.450 mmol of 3-{4-[2-(2,2-difluoroethoxy)-3,5-di-tert-butylphenyl]-benzo[b]thien-2-yl}-but-2-enoic acid ethyl ester, 3 mL of THF, 3 mL of methanol and 1 mL of LiOH (2N aqueous) was refluxed for 2 hours. After cooling at room temperature, the mixture was acidified to pH=2 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and after evaporation of the solvents, and the crude acid was recrystallized from acetonitrile to afford 192 mg (0.378 mmol, yield: 58%) of 3-{4-[2-(2,2-difluoroethoxy)-3,5-di-tert-butylphenyl]-benzo[b]thien-2-yl}-but-2-enoic acid was isolated as a white solid. 1H NMR (CDCl3), δ: 7.81 (dd, J=7.3, 1.5 Hz, 1H), 7.45 (m, 4H), 7.21 (d, J=2.4 Hz, 1H), 6.33 (s, 1H), 5.19 (dt, J=55.5, 4.3 Hz, 1H), 3.51 (m, 2H), 2.59 (s, 3H), 1.48 (s, 9H), 1.35 (s, 9H).

reactant | 3-{4-[2-(2,2-difluoroethoxy)-3,5-di-tert-butylphenyl]-benzo[b]thien-2-yl}-but-2-enoic acid ethyl ester | 0.450 mmol | C(C)OC(C=C(C)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)OCC(F)F)=O | C30H36F2O3S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | methanol | 3 mL | CO | CH4O
product | 3-{4-[2-(2,2-difluoroethoxy)-3,5-di-tert-butylphenyl]-benzo[b]thien-2-yl}-but-2-enoic acid | 0.378 mmol, 192 mg, yield: 58% | FC(COC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C1=CC=CC=2SC(=CC21)C(=CC(=O)O)C)F | C28H32F2O3S
